US07589232B2
5-[{4-[(4-chlorophenyl)ethynyl]benzyl}(cyclohexylcarbonyl)amino]-2-hydroxybenzoic acid N-methyl-D-glucamine (i.e. 1-deoxy-1-(methylamino)glucitol) salt
The titled compound was prepared following the procedure D using 5-[{4-[(4-chlorophenyl)ethynyl]benzyl}(cyclohexylcarbonyl)amino]-2-hydroxybenzoic acid and N-methyl-D-glucamine as a white powder (36%). M− (ESI): 486.1; M+ (ESI): 488.1. HPLC, Rt: 5.25 min (Purity: 98.8%).

reactant | 5-[{4-[(4-chlorophenyl)ethynyl]benzyl}(cyclohexylcarbonyl)amino]-2-hydroxybenzoic acid | ClC1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)O)C(=O)C2CCCCC2)C=C1 | C29H26ClNO4
reactant | N-methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
product | 5-[{4-[(4-chlorophenyl)ethynyl]benzyl}(cyclohexylcarbonyl)amino]-2-hydroxybenzoic acid N-methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO.ClC1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)O)C(=O)C2CCCCC2)C=C1 | InChI=1S/C29H26ClNO4.C7H17NO5/c30-24-14-12-21(13-15-24)7-6-20-8-10-22(11-9-20)19-31(28(33)23-4-2-1-3-5-23)25-16-17-27(32)26(18-25)29(34)35;1-8-2-4(10)6(12)7(13)5(11)3-9/h8-18,23,32H,1-5,19H2,(H,34,35);4-13H,2-3H2,1H3/t;4-,5+,6+,7+/m.0/s1
